US07960369B2
tert-butyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate
To a solution (100 mL) of tert-butyl 3-(4-hydroxyphenyl)propanoate (5.5 g, 24.7 mmol) in N,N-dimethylformamide was added 60% sodium hydride (1.09 g, 27.2 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 15 min. Then, 3-bromobenzylbromide (6.55 g, 25.91 mmol) was added to this mixture with stirring at 0° C., and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was diluted with ethyl acetate, and washed with water and saturated brine. The ethyl acetate layer was dried over magnesium sulfate, and concentrated under reduced pressure to give the title compound (7.5 g, yield 78%) as a colorless powder.

reactant | tert-butyl 3-(4-hydroxyphenyl)propanoate | 24.7 mmol, 100 mL, 5.5 g | OC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C13H18O3
reactant | sodium hydride | 27.2 mmol, 1.09 g | [H-].[Na+]
reactant | 3-bromobenzylbromide | 25.91 mmol, 6.55 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | 7.5 g, yield 78% | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC(C)(C)C)C=CC1 | C20H23BrO3
